### PR TITLE
[Merged by Bors] - feat: port Analysis.SpecialFunctions.Pow.Complex

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/Complex.lean [hunk 1]
```diff
@@ -0,0 +1,277 @@
...
+theorem cpow_sub {x : ℂ} (y z : ℂ) (hx : x ≠ 0) : x ^ (y - z) = x ^ y / x ^ z := by
+  rw [sub_eq_add_neg, cpow_add _ _ hx, cpow_neg, div_eq_mul_inv]
+#align complex.cpow_sub Complex.cpow_sub
+
+theorem cpow_neg_one (x : ℂ) : x ^ (-1 : ℂ) = x⁻¹ := by simpa using cpow_neg x 1
+#align complex.cpow_neg_one Complex.cpow_neg_one
+
+-- Porting note: coudn't find a way to use `^` for the RHS
+@[simp, norm_cast]
+theorem cpow_nat_cast (x : ℂ) : ∀ n : ℕ, x ^ (n : ℂ) = HPow.hPow x (n : ℕ)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Pow/Complex.lean:119]: This is quite annoying, but I don't have time right now to look into a fix

**Comment by ChrisHughes24** [comment]
bors merge
